US04221804
(A) 4,5-Dihydro-3-phenyl-1H-pyrazole-5-carboxylic acid
A mixture of 10.0 g of 3-benzoylacrylic acid, 1.8 g of hydrazine, and 3.7 g of potassium hydroxide in 30 ml. of aqueous ethanol (1:1) is stirred and heated at reflux for 2 hours. The cooled solution is treated with 5 ml of concentrated hydrochloric acid to pH 4.0 to precipitate 7.1 g of solid, melting point 180°-182° C. This material is dissolved in 40 ml of warm dimethylformamide and treated wit 140 ml of methanol to crystallize 3.9 g of the title compound, melting point 199°-201° C.

reactant | 3-benzoylacrylic acid | 10.0 g | C(C1=CC=CC=C1)(=O)C=CC(=O)O | C10H8O3
reactant | hydrazine | 1.8 g | NN | H4N2
reactant | potassium hydroxide | 3.7 g | [OH-].[K+]
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 4,5-Dihydro-3-phenyl-1H-pyrazole-5-carboxylic acid | C1(=CC=CC=C1)C1=NNC(C1)C(=O)O | C10H10N2O2
